US08748613B2
DIPEA (0.52 ml, 2.96 mmol) and 1-methylpiperazin-2-one hydrochloride (0.22 g, 1.48 mmol) were sequentially added to a solution of ethyl 2-bromo-2-phenylacetate (0.22 ml, 1.23 mmol) in acetonitrile (4 ml). The reaction was stirred at room temperature for 1.5 hours. DIPEA (0.13 ml, 0.74 mmol) was added again and the reaction was stirred at room temperature overnight. The solvent was evaporated and the crude was purified by flash chromatography (DCM/Acetone=9/1) to obtain ethyl 2-(4-methyl-3-oxopiperazin-1-yl)-2-phenylacetate (256 mg, 75% yield) as a yellow oil.

reactant | DIPEA | 2.96 mmol, 0.52 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-methylpiperazin-2-one hydrochloride | 1.48 mmol, 0.22 g | Cl.CN1C(CNCC1)=O
reactant | ethyl 2-bromo-2-phenylacetate | 1.23 mmol, 0.22 ml | BrC(C(=O)OCC)C1=CC=CC=C1 | C10H11BrO2
reactant | DIPEA | 0.74 mmol, 0.13 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 4 ml | C(C)#N | C2H3N
product | ethyl 2-(4-methyl-3-oxopiperazin-1-yl)-2-phenylacetate | 256 mg, 75% yield | CN1C(CN(CC1)C(C(=O)OCC)C1=CC=CC=C1)=O | C15H20N2O3
